US05321029
1-(Cyclopropylmethyl)-3-benzyl-7-(2-oxopropyl)xanthine
18.1 g of 3-benzyl-7-(2-oxopropyl)xanthine were treated with 11.4 ml of bromomethylcyclopropane and 9.2 g of potassium carbonate in 150 ml of DMF for 3 hours at 70° C. The mixture was concentrated, water was added and the product was extracted with ethyl acetate. After concentration of the solution the product crystallised, m.p. 138° C.

reactant | 3-benzyl-7-(2-oxopropyl)xanthine | 18.1 g | C(C1=CC=CC=C1)N1C(NC(C=2N(C=NC12)CC(C)=O)=O)=O | C15H14N4O3
reactant | bromomethylcyclopropane | 11.4 ml | BrCC1CC1 | C4H7Br
reactant | potassium carbonate | 9.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 1-(Cyclopropylmethyl)-3-benzyl-7-(2-oxopropyl)xanthine | C1(CC1)CN1C(=O)N(C=2N=CN(C2C1=O)CC(C)=O)CC1=CC=CC=C1 | C19H20N4O3
